US06809094B2
Tetrakis(triphenylphosphine)palladium (139 mg, 0.12 mmol) was added to a flask containing 4-bromophenol (519 mg, 3.0 mmol), 3-pyridyl boronic acid (553 mg, 4.5 mmol) and sodium carbonate (1.27 g, 12.0 mmol). The flask was flushed with nitrogen and ethanol (6 mL) and water (0.6 mL) were added. The mixture was placed in an oil bath at 80° C. for 16 h. Upon cooling to RT the mixture was partitioned between water and chloroform. The aqueous layer was extracted with chloroform (3×) and the combined organic layers were dried (Na2SO4), filtered and concentrated. The crude residue was purified by chromatography (Biotage, 40S) eluting with 50% ethyl acetate in hexanes to afford 165 mg (32%) of 4-pyridin-3-yl-phenol as a white solid: mp=194.6° C., MS (Cl) m/z 172.1 (M+1).

reactant | 4-bromophenol | 3.0 mmol, 519 mg | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | 3-pyridyl boronic acid | 4.5 mmol, 553 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | sodium carbonate | 12.0 mmol, 1.27 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Tetrakis(triphenylphosphine)palladium | 0.12 mmol, 139 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-pyridin-3-yl-phenol | 165 mg, 32% | N1=CC(=CC=C1)C1=CC=C(C=C1)O | C11H9NO
